US08664238B2
Preparation of N-(2-chloroethyl) morpholine hydrochloride (VIII)
Into 5 g (57 mmol) morpholine dissolved in 15 ml toluene, 4.6 ml (69 mmol) of 2-chlorohydrin was added dropwise. The mixture was heated to the reflux temperature and reacted for 5 h. After cooling, 20 ml of 5% NaOH solution was added to wash the reaction mixture. The organic layer obtained was washed with a saturated saline solution and dried over anhydrous sodium sulfate, then filtrated. Into the filtrate cooled in an ice bath, 8.3 ml (114 mmol) of thionyl chloride was added dropwise. After reacting for 12 h at room temperature, the reaction mixture was concentrated to dry in reduced pressure. The residue was recrystallized with ethyl acetate to obtain 5.9 g white solid with the yield of 55%. m.p. 182-184° C.

reactant | morpholine | 57 mmol, 5 g | N1CCOCC1 | C4H9NO
reactant | NaOH | 20 ml | [OH-].[Na+]
reactant | thionyl chloride | 114 mmol, 8.3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-chloroethyl) morpholine hydrochloride | 5.9 g, yield of 55% | Cl.ClCCN1CCOCC1 | InChI=1S/C6H12ClNO.ClH/c7-1-2-8-3-5-9-6-4-8;/h1-6H2;1H
